US07452886B2
A. 4-Oxo-piperidine-1-carboxylic acid tert-butyl ester
To a solution of piperidin-4-one.H2O.HCl (86.9 g, 0.57 mol) in dioxane/H2O (600 ml/400 ml), di-t-butyl dicarbonate (135.9 g, 0.62 mol) and NaOH (47.5 g, 1.18 mol) are added at ambient temperature. The reaction mixture is stirred at ambient temperature for 18 h. After removal of the solvent, the residue is extracted with CH2Cl2 and the combined extracts are washed with brine, dried over magnesium sulfate, concentrated to give yellow solid.

reactant | piperidin-4-one | N1CCC(CC1)=O | C5H9NO
reactant | H2O.HCl | 0.57 mol, 86.9 g | O.Cl
reactant | di-t-butyl dicarbonate | 0.62 mol, 135.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 1.18 mol, 47.5 g | [OH-].[Na+]
solvent | dioxane H2O | 600 ml | O1CCOCC1.O
product | 4-Oxo-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
